US04725599
trans-6,7-Dichloro-3-[3-(3-hydroxy-2-piperidyl)-2-oxopropyl]thieno[3,2-d]pyrimidin-4(3H)-one Dihydrobromide
In a 15 ml single-neck round bottom flask equipped with a reflux condenser, a solution of 0.190 g (0.00044 mole) of methyl trans-2-[3-(6,7-dichloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-hydroxy-1-piperidinecarboxylate and 6.2 ml of 48% aqueous hydrobromic acid was immersed in an oil bath preheated to 150° C. Heating was continued for three minutes. The solution was allowed to cool to room temperature, and the volatile components were evaporated under reduced pressure. Ethanol (5 ml) was added to the residue, and again the mixture was evaporated to dryness. This operation was repeated once more to afford a dark residue which was then taken up in 3 ml of ethanol. After standing overnight at room temperature, the solution was diluted with 1 ml of ethanol and then heated at reflux briefly. Upon cooling a greyish solid precipitated. The mother liquor was removed by means of a pipette, and the residue was dried in a vacuum oven at 55° C. for 45 minutes to furnish the title compound: yield 0.080 g (48%); mass spectrum peaks at 357 (molecular ion - 18), 155, 137 (parent peak) amongst others; 1H-nmr (CF3CO2H) delta 1.3-2.0 ppm (multiplet, 4H, OCHCH2CH2CH2N), 2.8-3.4 (multiplet, 6H, COCH2CH, NCH2, NCHCH2, CHOH), 3.7 (singlet, 1H, OH), 4.9 (singlet 2H, NCH2CO), 8.3 (broad singlet, 1H, N=CH--N).

reactant | methyl trans-2-[3-(6,7-dichloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-hydroxy-1-piperidinecarboxylate | 0.00044 mole, 0.190 g | ClC1=C(C=2N=CN(C(C2S1)=O)CC(C[C@@H]1N(CCC[C@H]1O)C(=O)OC)=O)Cl | C16H17Cl2N3O5S
reactant | hydrobromic acid | 6.2 ml | Br | BrH
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | trans-6,7-Dichloro-3-[3-(3-hydroxy-2-piperidyl)-2-oxopropyl]thieno[3,2-d]pyrimidin-4(3H)-one Dihydrobromide | Br.Br.ClC1=C(C=2N=CN(C(C2S1)=O)CC(C[C@@H]1NCCC[C@H]1O)=O)Cl | InChI=1S/C14H15Cl2N3O3S.2BrH/c15-10-11-12(23-13(10)16)14(22)19(6-18-11)5-7(20)4-8-9(21)2-1-3-17-8;;/h6,8-9,17,21H,1-5H2;2*1H/t8-,9+;;/m0../s1
